US05955611
5-Chlorosulphonyl-2-ethoxybenzoic acid
Molten 2-ethoxybenzoic acid (25.0 g, 0.150 mol) was added to a stirred, ice-cooled mixture of thionyl chloride (11 ml, 0.151 mol) and chlorosulphonic acid (41.3 ml, 0.621 mol), whilst maintaining the temperature of the reaction mixture below 25° C. The resulting mixture was stirred at room temperature for 18 hours and then poured into a stirred mixture of ice (270 g) and water (60 ml) to give an off-white precipitate. Stirring was continued for 1 hour, then the product was collected by filtration, washed with water and dried under vacuum to provide the title compound (36.08 g). A reference sample, m.p. 115-116° C., was obtained by crystallisation from hexane:toluene. Found: C,41.02; H,3.27. C9H9ClO5S requires C,40.84; H,3.43%. δ (CDCl3): 1.64(3H,t), 4.45(2H,q), 7.26(1H,d), 8.20(1H,dd), 8.80(1H,d).

reactant | 2-ethoxybenzoic acid | 0.150 mol, 25.0 g | C(C)OC1=C(C(=O)O)C=CC=C1 | C9H10O3
reactant | thionyl chloride | 0.151 mol, 11 ml | S(=O)(Cl)Cl | Cl2OS
reactant | chlorosulphonic acid | 0.621 mol, 41.3 ml | ClS(=O)(=O)O | ClHO3S
solvent | water | 60 ml | O | H2O
product | 5-Chlorosulphonyl-2-ethoxybenzoic acid | 36.08 g | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OCC | C9H9ClO5S
